US07635715B2
Step G: Preparation of N-((8-Chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
A solution of 1,1-dimethylethyl N-((8-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.162 g, 0.427 mmol) in TFA (5.00 mL, 67.3 mmol) was stirred at 25° C. for 10 minutes. The solution was concentrated, azeotroped using DCM (2×100 mL), and dried in vacuo to give the title compound (0.138 g). MS m/e=324 (M+H)+. Calculated for C15H14ClNO5 323.06.

reactant | 1,1-dimethylethyl N-((8-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.427 mmol, 0.162 g | ClC=1C=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22ClNO5
reactant | TFA | 67.3 mmol, 5.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((8-Chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 0.138 g | ClC=1C=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)O)O | C15H14ClNO5
